US05324726
(R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)benzoic acid ethyl ester
(R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one (150 mg, 0.35 mmol), 3-aminobenzoic acid ethyl ester (61 mg, 0.37 mmol), and triethylamine (52.5 mg, 0.52 mmol) were combined in DMF (2 ml) and heated at 45° overnight. The DMF was removed in vacuo and the residue crystallized from ethyl acetate to provide the title compound: (mp 140°-142° C.).

reactant | (R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.35 mmol, 150 mg | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O | C23H18N4O5
reactant | 3-aminobenzoic acid ethyl ester | 0.37 mmol, 61 mg | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
reactant | triethylamine | 0.52 mmol, 52.5 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)NC(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O)=O | C26H24N4O4
